US07723522B2
Synthesis of 2-cyano-3-methylpyridine (III-3)
A 11.53 g (120 mmol) of 2-pyrimidone and 12.14 g (120 mmol) of triethylamine were dissolved in 50 ml of ethanol, and 11.23 g (110 mmol) of acetic anhydride was added dropwise thereto at 70° C. spending 1 hour. The reaction solution was cooled to room temperature and mixed with 8.31 g (100 mmol) of 2-oxobutyronitrile and 30.43 g (400 mmol) of ammonium acetate, and the resulting reaction solution was allowed to undergo the reaction at 80° C. for 4 hours. After completion of the reaction, this was cooled to room temperature, neutralized with 100 g (600 mmol) of 25% sodium hydroxide aqueous solution and then extracted twice with 40 ml of toluene. By concentrating the organic layer, 7.92 g (yield 67.1%) of the title compound was obtained (purity 99.1%, melting point 85-86° C.).

reactant | 2-pyrimidone | 120 mmol, 11.53 g | N1C(N=CC=C1)=O | C4H4N2O
reactant | triethylamine | 120 mmol, 12.14 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 110 mmol, 11.23 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-oxobutyronitrile | 100 mmol, 8.31 g | O=C(C#N)CC | C4H5NO
reactant | ammonium acetate | 400 mmol, 30.43 g | C(C)(=O)[O-].[NH4+]
reactant | sodium hydroxide | 600 mmol, 100 g | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-cyano-3-methylpyridine | 7.92 g, yield 67.1% | C(#N)C1=NC=CC=C1C | C7H6N2
